Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
bees / darvocet / Percocet / Vicodin / codeine
 
Attending: ___.
 
Chief Complaint:
syncope 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female with PMHx of neurofibromatosis type 1, HTN, HLD, 
pseudoseizure, anxiety who presents from outpatient ___
clinic for chest pain, syncope, hypotension.
 
Patient presented to ___ clinic for initial evaluation for 
ecchymosis. There, she was found to be hypotensive with a
systolic blood pressure of 88 and she was symptomatic with 
dizziness. She is also reporting left-sided chest pain. She
reports that she has had chest pain intermittently in the past 
but did not have extensive workup. Last stress was many years
ago. No associated shortness of breath. No recent travel or leg 
swelling. The pain is described as a pressure sensation which
occurs intemittently. She is a non-smoker. 

She also has been lightheaded and dizzy recently with multiple 
falls in the past couple weeks in the setting of recently
starting lisinopril 10mg instead of atenolol/HCTZ & losartan 
which was discontinued. She does note cough intolerance while
taking lisinopril, which she previously take years ago. Unclear 
why lisinopril was started.

PCP was called, ___ (___), who recommended 
admission for syncope, hypotension 

In the ED, initial vitals: 
97.1 100/65 18 100% RA 

- Exam notable for: bradycardia

- Labs notable for:  
Neg trop x1, K of 5.4, otherwise BMP, CBC wnl.
___ of 14.3, INR 1.3 

- Imaging notable for:
CXR (___)
No acute intrathoracic process.  
POCUS negative for cardiac pathology 

- Pt given: 1L IVC, famotidine 20mg, simvastatin 40mg,
acetaminophen 1000mg

- Vitals prior to transfer: 97.6 66 107/61 19 98% RA 
 
On the floor, patient relates history as above. She states she 
is still having ___ chest pain, nonradiating, that occurs
intermittently. None currently. She denies associated SOB, N/V. 
Has occasional palpitations that's rare. In regards to her
syncope, occurred ___ times in past week and half; they have not 
been witnessed besides once by son. Gets pre-syncopal symptoms 
of
lightheadedness and dizziness prior to event at times, but 
others occur without warning.

ROS as above, otherwise negative
 
Past Medical History:
PAST MEDICAL HISTORY:
- Neurofibromatosis type 1 - plans to see specialist at ___
- HTN
- HLD
- Psychogenic non-epileptiform seizures
- anxiety
- one spontaneous abortion, two vaginal deliveries (no
post-partum hemorrhage)

PAST SURGICAL HISTORY:
- tonsillectomy at age ___, no bleeding
- TAH-BSO at age ___, no post-operative bleeding, performed for
___ months of menorrhagia
- cholecystectomy, no bleeding
- umbilical hernia repair, no bleeding
- dental extractions of all teeth, no major bleeding
- bowel surgery (unknown type), no bleeding
 
Social History:
___
Family History:
Adopted
2 children without history of bleeding
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: 97.9 137/80 63 18 97% RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: Moving all extremities spontaneously.   

DISCHARGE PHYSICAL EXAM
=========================
VITALS: 97.8, Tmax 100.0 131/70 HR57 RR18 98%ra. Orthostatics
negative this morning. 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, tender to palpation in the LLQ, non-distended,
bowel sounds present, no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: Moving all extremities spontaneously.   
Skin: scattered café ___ spots present diffusely on arms,
back legs. Also with cutaneous neurofibromas(all less than 1cm)
present on skin 

 
Pertinent Results:
ADMISSION LABS
==================
___ 11:25AM BLOOD WBC-5.9 RBC-4.77 Hgb-13.9 Hct-43.1 MCV-90 
MCH-29.1 MCHC-32.3 RDW-14.1 RDWSD-47.1* Plt ___
___ 11:25AM BLOOD Neuts-62.2 ___ Monos-6.1 Eos-4.6 
Baso-0.9 Im ___ AbsNeut-3.64 AbsLymp-1.52 AbsMono-0.36 
AbsEos-0.27 AbsBaso-0.05
___ 11:25AM BLOOD ___ PTT-32.5 ___
___ 11:25AM BLOOD UreaN-16 Creat-0.8 Na-144 K-5.4* Cl-103 
HCO3-31 AnGap-10
___ 05:05AM BLOOD CK(CPK)-24*
___ 02:35PM BLOOD cTropnT-<0.01
___ 08:15PM BLOOD cTropnT-<0.01

IMAGING
===================
___ CXR No acute intrathoracic process.

DISCHARGE LABS
===================
___ 05:05AM BLOOD WBC-6.2 RBC-4.26 Hgb-12.7 Hct-38.6 MCV-91 
MCH-29.8 MCHC-32.9 RDW-14.0 RDWSD-46.4* Plt ___
___ 05:05AM BLOOD Glucose-87 UreaN-14 Creat-0.7 Na-143 
K-4.6 Cl-103 HCO3-26 AnGap-14
 
Brief Hospital Course:
Key Information for Outpatient ___ y/o female with 
PMHx of neurofibromatosis type 1, HTN, HLD, pseudoseizure, 
anxiety who presents from outpatient ___ clinic for chest 
pain, syncope, hypotension, found to have orthostatic 
hypotension which improved with fluids and also holding 
lisinopril.

ACTIVE ISSUES
=================
#Syncope
#Hypotension
Patient with several episodes of syncope in the past couple 
weeks coinciding with recent initiation of lisinopril. This had 
been started at rehab due to report of symptomatic blood 
pressures 200s/100s over 2 days (preceded and followed by 
normotension); she had previously been on atenolol and losartan. 
Telemetry did not alarm; EKG was normal. Her orthostatic vital 
signs were positive on ___ am but improved with PO fluids. 
Suspect syncopal episodes from over-medication and dehydration. 
Lisinopril was discontinued and she was encouraged to drink 
fluids. Prazosin was also held during the hospitalization in 
case of contribution. She was not familiar with this medicine. 

#Anxiety
#Psychogenic nonepileptiform seizures. Patient had a witness 
episode of pseudoseizure overnight ___. Vitals remained 
stable and patient was A&Ox3 after the episode. During hand drop 
test the patients hand did not fall on her face. She had no aura 
or postical phase. She is following up with neurology as an 
outpatient. Continued home escitalopram, prazosin, lamotrigine. 
Home clonazepam held secondary to presyncope. 

#Chest pain. She had reassuring EKG and neg trops x2. ___ be GI 
related vs anxiety. Continued on famotidine. 

CHRONIC ISSUES
==================
#GERD. Continued famotidine 20mg.
#HLD. Continued home simvastatin.

TRANSITIONAL ISSUES
======================
HELD MEDICATIONS: Lisinopril, clonazepam, prazosin. 

[ ] Consider restarting low-dose anti-hypertensive if blood 
pressure remain elevated in the outpatient setting. 
[ ] Consider restarting prazosin as outpatient. Presumed that 
she is taking it for off-label use for PTSD. 

#Full code 
#Health care proxy/emergency contact: Husband ___. 
___, h: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. butalbital-acetaminophen-caff 50-300-40 mg oral DAILY:PRN 
2. Prazosin 4 mg PO QHS 
3. Lisinopril 10 mg PO DAILY 
4. ClonazePAM 1 mg PO BID 
5. Famotidine 20 mg PO BID 
6. Simvastatin 40 mg PO QPM 
7. Escitalopram Oxalate 20 mg PO DAILY 
8. Cyanocobalamin 1000 mcg PO DAILY 
9. LamoTRIgine 25 mg PO BID 

 
Discharge Medications:
1.  butalbital-acetaminophen-caff 50-300-40 mg oral DAILY:PRN 
headache  
2.  Cyanocobalamin 1000 mcg PO DAILY  
3.  Escitalopram Oxalate 20 mg PO DAILY  
4.  Famotidine 20 mg PO BID  
5.  LamoTRIgine 25 mg PO BID  
6.  Simvastatin 40 mg PO QPM  
7. HELD- ClonazePAM 1 mg PO BID  This medication was held. Do 
not restart ClonazePAM until your doctor checks your blood 
pressure and determines it is safe
8. HELD- Prazosin 4 mg PO QHS  This medication was held. Do not 
restart Prazosin until your doctor checks your blood pressure 
and determines it is safe

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary diagnosis
====================
Orthostatic hypotension
Syncope

Secondary diagnoses
=======================
Neurofibromatosis type 1
Anxiety
Psychogenic nonepileptiform seizures 
GERD
HLD
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You came to ___ because your blood pressure was very low and 
you were feeling lightheaded. Please see more details listed 
below about what happened while you were in the hospital and 
your instructions for what to do after leaving the hospital.

It was a pleasure participating in your care. We wish you the 
best!

Sincerely,
Your ___ Care Team

===================================
WHAT HAPPENED AT THE HOSPITAL? 
===================================
-We STOPPED your blood pressure medication called lisinopril. 
-We monitored your blood pressure and it was normal. 
-You had blood work done which was all normal. 
-You had some tests done, including blood work and an 
electrocardiogram, that showed that you did not have a heart 
attack. 

==================================================
WHAT NEEDS TO HAPPEN WHEN YOU LEAVE THE HOSPITAL? 
==================================================
-Do not restart your lisinopril until your primary care doctor 
says you should restart it. 
-Do not drive or take a bath when you are home alone because of 
your pseudoseizures 
-Follow up with your PCP within ONE WEEK to check on your blood 
pressure 

 
Followup Instructions:
___